Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
LLE pain and swelling
 
Major Surgical or Invasive Procedure:
None during this hospitalization

Prior SDS ___: Left lower extremity greater saphenous 
vein stripping and stab avulsion of varicose veins.

 
History of Present Illness:
This patient is a ___ year old male s/p left lower extremity 
greater saphenous vein stripping and stab avulsion of varicose 
veins on ___ now p/w left lower extremity pain and 
swelling since yesterday. The patient denies any chest pain or 
shortness of breath. No fevers or chills. Patient does describe 
pain throughout the entire left lower extremity. No numbness or 
tingling
                       Timing: Gradual
                     Severity: Moderate
                     Duration: Days
                     Location: left lower extremity
        Context/Circumstances: vascular surgery one week ago
                  Mod.Factors: ___.
 
Past Medical History:
Colon polyps, bph, hl, varicose veins

PSH: Left lower extremity greater saphenous vein stripping and 
stab avulsion of varicose veins

Allergies: none

 
Social History:
___
Family History:
No heart disease, cancer, or clotting disorders

 
Physical Exam:
Vitals: Afebrile, hemodynamically stable
Gen: A&O x3, NAD
Pulm: No resp. distress, CTAB
Cardiac: Normal rate, regular rhythm, no m/r/g
Abd: Soft, NT, ND
Extremities: Warm, well-perfused, palpable pedal pulses b/l, 
surgical incisions c/d/i, moderate swelling from proximal thigh 
down to foot with erythema, mildly tender, in ACE wrap
 
Pertinent Results:
___ 08:20PM BLOOD WBC-11.4*# RBC-4.22* Hgb-12.7* Hct-38.7* 
MCV-92 MCH-30.1 MCHC-32.8 RDW-12.6 RDWSD-41.5 Plt ___

___ 08:20PM BLOOD Neuts-71.5* Lymphs-15.4* Monos-11.0 
Eos-1.4 Baso-0.3 Im ___ AbsNeut-8.13* AbsLymp-1.75 
AbsMono-1.25* AbsEos-0.16 AbsBaso-0.03

___ 08:20PM BLOOD ___ PTT-28.6 ___
___ 08:20PM BLOOD Plt ___
___ 02:45AM BLOOD PTT-150*
___ 10:20AM BLOOD PTT-76.1*
___ 05:20PM BLOOD PTT-78.4*
___ 11:18PM BLOOD PTT-76.7*
___ 09:00AM BLOOD PTT-76.6*

___ 02:45AM BLOOD Glucose-136* UreaN-13 Creat-0.8 Na-132* 
K-3.9 Cl-97 HCO3-23 AnGap-16
___ 08:20PM BLOOD Glucose-139* UreaN-16 Creat-0.8 Na-128* 
K-3.8 Cl-92* HCO3-23 AnGap-17

___ 02:45AM BLOOD Calcium-8.9 Phos-3.4 Mg-2.1

===========================================================
___: 
Bilateral lower extremity Ultra Sound:
IMPRESSION:
1. Deep venous thrombosis involving all the visualized veins in 
the left lower extremity including the common femoral, femoral, 
popliteal and posterior tibial veins.  The proximal extent of 
the thrombus was not able to be visualized.
2. No evidence of deep venous thrombosis in the right lower 
extremity veins.

============================================================
___:

CT Abdomen and Pelvis with contrast

IMPRESSION:
1. Thrombosis of the left common iliac vein from the level of 
the IVC bifurcation, internal and external iliac veins and left 
common femoral veins.  Previous left lower extremity DVT study 
demonstrated the entirety of the distal lower extremity veins to 
be thrombosed.  Given that the left common iliac vein is 
thrombosed as it passes posterior to the right common iliac 
artery raises the possibility of ___ syndrome.
2. 8 mm pulmonary nodule in the right lower lobe with associated 
cystic spaces may be post infectious or inflammatory; however, 
follow-up is recommended to document stability.
 
RECOMMENDATION(S):  Per ___ society guidelines recommend 
follow-up of pulmonary nodule in 6 months if no risk factors for 
malignancy.  If risk factors recommend followup in 3 months.
 
Brief Hospital Course:
Dates of hospitalization: ___ - ___:

Mr. ___ was admitted to ___ on 
___ since he presented with left lower extremity pain and 
swelling which was concerning for deep vein thrombosis. His 
ultrasound showed DVTs involving all the visualized veins 
including the common femoral, femoral, popliteal and posterior 
tibial veins of his left leg. Since the proximal extent of the 
thrombus was not visualized, a CT Abdomen and pelvis was 
obtained which showed thrombosis of the left common iliac vein 
from the level of the IVC bifurcation, internal and external 
iliac veins and left common femoral veins. 

Patient's INR at the time of admission was 1.1. He was started 
on systemic anticoagulation with heparin and his symptoms 
improved. He was also started on warfarin for long term 
anti-coagulation, which he will continue to take for a minimum 
of 3 months. On hospital day 2, patient's symptoms had 
significantly improved and he was found to be medically safe to 
be discharged to home. He was advised to continue Lovenox 
injections to bridge to coumadin for a goal INR of 2.0-3.0 and 
he was provided ___ services to facilitate Lovenox injections 
and blood draws. Follow-up for Coumadin dosing was arranged with 
patient's PCP. Discharge instructions were reviewed with the 
patient and all questions were answered.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin 81 mg PO DAILY 
2. Cyanocobalamin 1000 mcg PO Q48H
 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Cyanocobalamin 1000 mcg PO Q48H 
3. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
Do not drink alcohol or drive when taking this medication 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0
4. Warfarin 5 mg PO ___ 
You need blood tests to make sure your INR is therapeutic at 
2.0-3.0 
RX *warfarin 5 mg 1 tablet(s) by mouth qPM Disp #*5 Tablet 
Refills:*0
5. Enoxaparin Sodium 80 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 80 mg/0.8 mL 80 mg SC twice a day Disp #*6 
Syringe Refills:*1
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Deep vein thrombosis of left lower extremity
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dates of hospitalization: ___ - ___:

You were admitted to ___ on 
___ since you presented with left lower extremity pain 
and swelling which was concerning for clots in the deep veins of 
your leg. Your imaging studies showed clots in the left common 
iliac vein from the level of the IVC bifurcation, internal and 
external iliac veins, left common femoral, femoral, popliteal 
and posterior tibial veins of your left leg. 

You were started on systemic anticoagulation with heparin and 
your symptoms improved. You also received warfarin for long term 
coagulation which you will continue to take for a minimum of 3 
months.

The main goal of your treatment is to prevent a Pulmonary 
Embolism (clot reaching your lungs). Other goals of treatment 
include preventing the existing clot from becoming larger, 
preventing new blood clots from forming, and preventing 
long-term complications.

Please call Dr. ___ phone: ___ for your 
appointment which will be scheduled within the next 2 weeks.

Warfarin is a blood thinner and you require blood tests to 
maintain a therapeutic INR 2.0-3.0. Your INR at the time of 
admission was 1.1. Please take Lovenox injections as prescribed 
until your INR increases to a goal of 2.0-3.0.

Gently apply ACE wrap to your left leg every day to improve 
blood flow in your legs and prevent swelling and long term 
complications due to blood clots. 

You are being discharged to home with ___ services to facilitate 
the Lovenox injections and blood draws. Your PCP ___ manage 
your Coumadin dosing accordingly.

For symptom relief, applying warm (not hot) compresses or 
heating pad to promote circulation and reduce pain. Elevate your 
legs to reduce swelling. Avoid rubbing or massaging the affected 
area (the clot could break loose).

What to report to office:
•Numbness, coldness or pain in lower extremities 
•Your skin looks pale, blue, or feels cold to touch
•You have more swelling and tenderness in either or both of your 
legs which seems to get worse each day.
•You have fever or chills
•Sudden onset of chest pain, shortness of breath, and anxiety. 
These are serious symptoms that require medical attention right 
away. This can be a sign that the clot has broken loose and 
traveled to your lungs. Call your doctor immediately if any of 
these symptoms develop.
 
Followup Instructions:
___